US05201931
Z-4-(5-acetoxy-3-methyl-pent-4-en-1-ynyl)-3,5,5-trimethylcyclohex-3-en-1-one (3)
A mixture of (Z)-4-hydroxy-4-(5-hydroxy-3-methylpent-3-en-1-ynyl)-3,5,5-trimethylcyclohexanone 795 mg, 3.1 mmol), glacial acetic acid (5 mL), acetic anhydride (5 mL), and KHSO4 (440 mg, 3.2 mmol) was heated to 70° C. under argon for 5 h. Then the mixture was cooled to room temperature and slowly added to a chilled (ice bath) and stirred mixture of hexane and saturated NaHCO3. More saturated NaHCO3 was added until the pH of the aqueous phase was about 6-7. The organic and aqueous layers were then separated, and the aqueous layer was extracted with hexane. The combined hexane layers were washed with saturated NaHCO3, H2O, and dried over anhydrous Na2SO4. Removal of solvent gave a yellow oil (737 mg) which on purification by flash column chromatography using 75% ether+25% hexane as solvent gave compound (3) (600 mg, 70%) as a yellow oil, ir: 1730 (strong, broad) cm-1; 1H nmr d: 5.77 (ddq, J=7.0, 7.0, 1.5 Hz, 1H, =CH), 4.76 (dd, J=7.0, 1.0 Hz, 2H CH2O), 2.90 (broad s, 2H, CH2), 2.39 (s, 2H, CH2), 2.03 (s, 3H, CH3COO), 1.94 and 1.93 (2m, 6H, 2 vinyl CH3), 1.16 (s, 6H, 2CH3); ms m/z: 274 (M+, 30), 214 (100).

reactant | (Z)-4-hydroxy-4-(5-hydroxy-3-methylpent-3-en-1-ynyl)-3,5,5-trimethylcyclohexanone | 3.1 mmol, 795 mg | OC1(C(CC(CC1(C)C)=O)C)C#C\C(=C/CO)\C | C15H22O3
reactant | acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | KHSO4 | 3.2 mmol, 440 mg | OS(=O)(=O)[O-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | Z-4-(5-acetoxy-3-methyl-pent-4-en-1-ynyl)-3,5,5-trimethylcyclohex-3-en-1-one | 737 mg | C(C)(=O)O\C=C/C(C#CC1=C(CC(CC1(C)C)=O)C)C | C17H22O3
